US05958375
b. 3,5-Dinitrophenol
3,5-Dinitroanisole (1.36 g, 6.9 mmol) and concentrated aqueous HBr (50 ml) was heated to reflux temperature for 16 h. After cooling to ambient temperature, the solid precipitate was filtered off, washed with water and dried. Yield: 325 mg (26%).

reactant | 3,5-Dinitroanisole | 6.9 mmol, 1.36 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])OC | C7H6N2O5
solvent | HBr | 50 ml | Br | BrH
product | 3,5-Dinitrophenol | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])O | C6H4N2O5
